US09302989B2
N-isopentyl-4-nitrobenzenesulfonamide
4-Nitrobenzene-1-sulfonyl chloride (1.5 g, 6.57 mmol) was dissolved in dichloromethane (30 ml) and cooled to 0° C. followed by addition of diisopropylethylamine (2.293 ml, 13.13 mmol). 3-Methylbutan-1-amine (0.926 ml, 7.88 mmol) was dissolved in 5 ml dichloromethane and added via syringe. After the addition, the mixture was allowed to warm to room temperature for 3 hours. The solution was diluted with aqueous sodium bicarbonate and extracted twice with dichloromethane. The organics were combined, dried over magnesium sulfate, filtered and concentrated. Chromatography provided the title compound.

reactant | 4-Nitrobenzene-1-sulfonyl chloride | 6.57 mmol, 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | diisopropylethylamine | 13.13 mmol, 2.293 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-Methylbutan-1-amine | 7.88 mmol, 0.926 ml | CC(CCN)C | C5H13N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-isopentyl-4-nitrobenzenesulfonamide | C(CC(C)C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H16N2O4S
